US09353086B2
6-chloro-N-(cyclopropylmethyl)pyridine-2-carboxamide
6-Chloropyridine-2-carboxylic acid (5.00 g, 31.7 mmol) was dissolved in DCM (100 mL) and DMF (0.5 mL) and oxalyl chloride (6.54 mL, 76.2 mmol) were added dropwise. The reaction mixture was stirred for 2 h, concentrated in vacuo and azeotroped with DCM. The residue was dissolved in DCM (100 mL), DIPEA (22.6 mL, 127 mmol) and aminomethylcyclopropane (5.51 mL, 63.5 mmol) were added dropwise and the reaction mixture was stirred for 4 h. The reaction mixture was washed with sat aq NaHCO3 solution (250 mL), dried (MgSO4) and concentrated in vacuo to give the crude title compound (6.50 g, 97%) as a light brown gum. LCMS (ES+): 211.2 [MH]+.

reactant | 6-Chloropyridine-2-carboxylic acid | 31.7 mmol, 5.00 g | ClC1=CC=CC(=N1)C(=O)O | C6H4ClNO2
reactant | oxalyl chloride | 76.2 mmol, 6.54 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIPEA | 127 mmol, 22.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | aminomethylcyclopropane | 63.5 mmol, 5.51 mL | NCC1CC1 | C4H9N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 6-chloro-N-(cyclopropylmethyl)pyridine-2-carboxamide | 6.50 g, 97% | ClC1=CC=CC(=N1)C(=O)NCC1CC1 | C10H11ClN2O
